US04140785
A solution of 0.1 mole of 6,7-dimethoxy-1-methyl-1H-(1)benzothieno[3,2-c]pyrazol-3-amine in 300 ml. of 48% aqueous hydrobromic acid was refluxed for 3 hours. The warm reaction mixture was poured into 1 liter of water and the aqueous mixture was adjusted to pH 7 using concentrated ammonium hydroxide solution. The precipitate which formed was removed by filtration and recrystallized from N,N-dimethyl formamide/water to give 6,7-dihydroxy-1-methyl-1H-(1)benzothieno[3,2-c]pyrazol-3-amine, m.p. 305°-307° C.

reactant | 6,7-dimethoxy-1-methyl-1H-(1)benzothieno[3,2-c]pyrazol-3-amine | 0.1 mole | COC1=CC2=C(C=C1OC)C=1N(N=C(C1S2)N)C | C12H13N3O2S
reactant | hydrobromic acid | Br | BrH
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 1 liter | O | H2O
product | 6,7-dihydroxy-1-methyl-1H-(1)benzothieno[3,2-c]pyrazol-3-amine | OC1=CC2=C(C=C1O)C=1N(N=C(C1S2)N)C | C10H9N3O2S
